US06664247B2
To a solution of 2,4-dichloro-5,6,7,8-tetrahydroquinazoline (500 mg, 2.46 mmol) and 3-amino-5-cyclopropylpyrazole (303 mg, 2.46 mmol) in DMF (10 mL) is added triethylamine (0.357 mL, 2.56 mmol) followed by sodium iodide (368 mg, 2.46 mmol) and the reaction mixture is heated at 90° C. for 20 h. The reaction mixture is partitioned between ethyl acetate and aqueous saturated NaHCO3. The organic layer is washed with brine and evaporated in vacuo. The residue is purified by flash chromatography (SiO2, hexane/AcOEt gradient) to give (2-chloro-5,6,7,8-tetrahydroquinazolin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine.

reactant | 2,4-dichloro-5,6,7,8-tetrahydroquinazoline | 2.46 mmol, 500 mg | ClC1=NC=2CCCCC2C(=N1)Cl | C8H8Cl2N2
reactant | 3-amino-5-cyclopropylpyrazole | 2.46 mmol, 303 mg | NC1=NNC(=C1)C1CC1 | C6H9N3
reactant | triethylamine | 2.56 mmol, 0.357 mL | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 2.46 mmol, 368 mg | [I-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2-chloro-5,6,7,8-tetrahydroquinazolin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine | ClC1=NC=2CCCCC2C(=N1)NC=1NN=C(C1)C1CC1 | C14H16ClN5
